US05576324
2-Aminomethyl-5-chloro-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one.
2-(t-Butoxycarbonyl)aminomethyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one (416 mg) was dissolved in tetrahydrofuran (8.8 ml), to which 6N-HCl (2.2 ml) was added. The mixture was refluxed for 30 minutes while heating. After completion of the reaction, the mixture was dried to solidity under reduced pressure. The residue was subjected to recrstallization with a solvent mixture of methanol-ether to obtain 265 mg of a hydrochloric acid salt of 2-aminomethyl-5-chloro-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one as light yellow powdery crystals (79.6%,

reactant | 2-(t-Butoxycarbonyl)aminomethyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | 416 mg | C(C)(C)(C)OC(=O)NCC1CC=2C(=C3C=CC(NC3=CC2)=O)O1 | C17H20N2O4
reactant | HCl | 2.2 ml | Cl | ClH
solvent | tetrahydrofuran | 8.8 ml | O1CCCC1 | C4H8O
product | 2-Aminomethyl-5-chloro-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | 265 mg | NCC1CC=2C(=C3C=CC(NC3=C(C2)Cl)=O)O1 | C12H11ClN2O2
